US06004977
2,3-Dihydro-4-fluoro-2-(-4-pyridinylamino)-1 H-isoindol-5-ol hydrobromide
A solution of 2,3-dihydro-4-fluoro-5-methoxy-N-(4-pyridinyl)-1H-isoindol-2-amine (3.25 g) in 48% hydrobromic acid (25 ml) was stirred, under reflux, for 5 hrs. The reaction mixture was diluted with water and stirred at ambient temperature overnight. The mixture was cooled to approximately 10° C. and filtered. The filter cake was washed with cold water and dried under vacuum at 80° C. to give 2.8 g (69%) of product. Recrystallization from water gave the analytical sample, mp. >250° C., dried at 80° C. under vacuum.

reactant | 2,3-dihydro-4-fluoro-5-methoxy-N-(4-pyridinyl)-1H-isoindol-2-amine | 3.25 g | FC1=C2CN(CC2=CC=C1OC)NC1=CC=NC=C1 | C14H14FN3O
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | water | O | H2O
product | 2,3-Dihydro-4-fluoro-2-(-4-pyridinylamino)-1 H-isoindol-5-ol hydrobromide | 2.8 g, 69% | Br.FC1=C2CN(CC2=CC=C1O)NC1=CC=NC=C1 | InChI=1S/C13H12FN3O.BrH/c14-13-11-8-17(7-9(11)1-2-12(13)18)16-10-3-5-15-6-4-10;/h1-6,18H,7-8H2,(H,15,16);1H
